US04932997
2.4 g (0.008 mol) of 2-methoxycarbonyl-4-phenylthiophen-3-ylsulfonamide, 2.2 g of N-(4,6-dimethoxypyrimidin-2-yl)phenylcarbamate, 1.2 g of 1,8-diazabicyclo[5.4.0]undec-7-ene and 30 ml of acetonitrile are stirred for 16 hours at room temperature. The reaction mixture is then poured into a mixture of ice and water and acidified with methanesulfonic acid. The resultant precipitate is filtered, washed with water and dried, affording 3.4 g (95%) of N-(2-methoxycarbonyl-4-phenylthiophen-3-ylsulfonyl)-N'-(4,6-dimethoxypyrimidin-2-yl)urea with a melting point of 225°-227° C.

reactant | 2-methoxycarbonyl-4-phenylthiophen-3-ylsulfonamide | 0.008 mol, 2.4 g | COC(=O)C=1SC=C(C1S(=O)(=O)N)C1=CC=CC=C1 | C12H11NO4S2
reactant | N-(4,6-dimethoxypyrimidin-2-yl)phenylcarbamate | 2.2 g | COC1=NC(=NC(=C1)OC)N(C([O-])=O)C1=CC=CC=C1
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.2 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | water | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-(2-methoxycarbonyl-4-phenylthiophen-3-ylsulfonyl)-N'-(4,6-dimethoxypyrimidin-2-yl)urea | 3.4 g, 95% | COC(=O)C=1SC=C(C1S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC)C1=CC=CC=C1 | C19H18N4O7S2
